US07687118B2
23.00 g (97 mmol) 4-pentoxyphenol, 17.6 g (97 mmol) (2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}acrylic acid and 1.18 g (9.7 mmol) 4-dimethylaminopyridine were dissolved in 300 ml of dichloromethane. A suspension of 18.6 g (97 mmol) N-(3-dimethylaminopropyl)-N′-ethylcarbo-diimide hydrochloride and 200 ml dichloromethane were added dropwise in the course of 40 minutes. After 22 h at room temperature, the reaction mixture was partitioned between dichloromethane and water; the organic phase was washed repeatedly with water, dried over sodium sulphate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 200 g silica gel using cyclohexane:ethyl acetate (7:3) then (1:1) as eluent yielded 36.4 g (94%) 4-pentoxyphenyl (2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}acrylate as colourless crystals.

reactant | 4-pentoxyphenol | 97 mmol, 23.00 g | C(CCCC)OC1=CC=C(C=C1)O | C11H16O2
reactant | (2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}acrylic acid | 97 mmol, 17.6 g | C(C)OC(=O)OC1=CC=C(C=C1)/C=C/C(=O)O | C12H12O5
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbo-diimide hydrochloride | 97 mmol, 18.6 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 9.7 mmol, 1.18 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-pentoxyphenyl (2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}acrylate | 36.4 g, 94% | C(C)OC(=O)OC1=CC=C(C=C1)/C=C/C(=O)OC1=CC=C(C=C1)OCCCCC | C23H26O6
